US04994485
Preparation of 2-methylsulphinyl-3-cyano-5-acetylthiophene (1).
5.0 g of 83% m-chloroperbenzoic acid are gradually added while stirring at a temperature of 0°-5° C. in 45 minutes to a solution of 5.0 g of 2-methylthio-3-cyano-5-acetylthiophene in 500 ml of methylene chloride. After stirring for another 30 minutes at 5° C., a saturated solution of sodium bicarbonate in approximately 50 ml of water is added; the reaction mixture is then stirred for 60 minutes. The organic layer is separated, washed with water and dried. After distilling off the solvent, the desired product is obtained in a yield of 4.6 g; melting-point 150° C.

reactant | m-chloroperbenzoic acid | 5.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methylthio-3-cyano-5-acetylthiophene | 5.0 g | CSC=1SC(=CC1C#N)C(C)=O | C8H7NOS2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | water | approximately 50 ml | O | H2O
product | 2-methylsulphinyl-3-cyano-5-acetylthiophene | CS(=O)C=1SC(=CC1C#N)C(C)=O | C8H7NO2S2
